US05612371
Example 9: Preparation of methyl N-(E)-[1-oxo-2-(pivaloylthiomethyl)-3-phenylpropenyl]-β-alaninate
The (E)-2-pivaloylthiomethyl-3-phenylpropenoic acid described in Example 8 (step B) is coupled with methyl β-alaninate according to the experimental procedure described in Example 1 (step D). Yield: 69% (after flash chromatography, eluent: ether/petroleum ether 55/45) oil IR: 3300, 1730, 1660, 1630 cm-1 1H NMR (CDCl3): 7.20 (s, 5H); 6.75 (s, 1H); 5.90 (broad t, 1H); 3.80 (s, 2H); 3.50 (s, 3H); 3.60 to 3.25 (m, 2H); 2.40 (t, 2H, J=6.5 Hz); 1.20 (s, 9H) Microanalysis: C19H25NO4S Calc. % C=62.79 H=6.93 N=3.85 Found. % C=63.20 H=7.10 N=3.92

reactant | (E)-2-pivaloylthiomethyl-3-phenylpropenoic acid | C(C(C)(C)C)(=O)SC\C(\C(=O)O)=C\C1=CC=CC=C1 | C15H18O3S
reactant | methyl β-alaninate | NCCC(=O)OC | C4H9NO2
product | methyl N-(E)-[1-oxo-2-(pivaloylthiomethyl)-3-phenylpropenyl]-β-alaninate | Yield: 69% | O=C(/C(=C\C1=CC=CC=C1)/CSC(C(C)(C)C)=O)NCCC(=O)OC | C19H25NO4S
